2119-08-15 10:17:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Increased oxygen requirement overnight.
   NG tube placed by surgery yesterday, worsening hiatal/gastric hernia by
   CXR.
   NGT drainage evolved to darker material, but guiac negative.
   Patient requests Surgical evaluation by Dr. [**Last Name (STitle) 9645**] [**Name (STitle) 518**].
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Morphine
   Nausea/Vomiting
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2119-8-14**] 08:50 PM
   Famotidine (Pepcid) - [**2119-8-14**] 11:51 PM
   Metoprolol - [**2119-8-15**] 07:58 AM
   Pantoprazole (Protonix) - [**2119-8-15**] 07:59 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**12-23**] Minimal
   Pain location: abdominal
   Flowsheet Data as of  [**2119-8-15**] 10:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.4
C (97.6
   HR: 84 (81 - 115) bpm
   BP: 121/50(69) {117/50(51) - 140/83(96)} mmHg
   RR: 15 (9 - 28) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 71.1 kg (admission): 71.6 kg
   Height: 66 Inch
             Total In:
                                                                  1,076 mL
                                                                    748 mL
   PO:
             TF:
   IVF:
                                                                  1,076 mL
                                                                    748 mL
   Blood products:
   Total out:
                                                                    220 mL
                                                                    500 mL
   Urine:
                                                                    170 mL
                                                                    200 mL
   NG:
                                                                     50 mL
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                    856 mL
                                                                    248 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 93%
   ABG: 7.40/41/63/19/0
   PaO2 / FiO2: 126
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, Supraclavicular WNL, No(t) Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : Coarse, scattered, No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): ox3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   11.9 g/dL
   131 K/uL
   174 mg/dL
   1.3 mg/dL
   19 mEq/L
   4.3 mEq/L
   28 mg/dL
   111 mEq/L
   146 mEq/L
   37.1 %
   12.1 K/uL
        [image002.jpg]
                             [**2119-8-14**]  10:51 AM
                             [**2119-8-14**]  06:01 PM
                             [**2119-8-15**]  12:00 AM
                             [**2119-8-15**]  07:30 AM
   WBC
   12.1
   Hct
   37.1
   Plt
   131
   Cr
   1.3
   TropT
   <0.01
   0.01
   TCO2
   26
   Glucose
   174
   Other labs: PT / PTT / INR:18.5/26.7/1.7, CK / CKMB /
   Troponin-T:233/6/0.01, Amylase / Lipase:/26, Lactic Acid:1.3 mmol/L,
   Ca++:8.5 mg/dL, Mg++:2.4 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   Possible gastric entrapment.  Clinical evidence for worsening over past
   24 hrs.
   HYPOTENSION -- transient and resolved.  Attributed to hypovolemia and
   nitroglycerin use.  Doubt sepsis, but may be related to evolving GI
   pathology.   Monitor BP, maintain MAP >60 mmHg.
   RESPIRATORY DISTRESS -- attributed to possible ARDS (aspiration of
   gastric contents), or evolving pneumonia.  Monitor RR, SaO2,
   supplimental oxygen, treat empirical antimicrobials.  Maintain SaO2
   >90%.
   SHOULDER PAIN -- No evidence for CAD (i.e. anginal equivalent), no
   evidence for cardiac ischemia.  Possible related to hiatal/gastric
   hernia.
   NAUSEA / EMESIS -- no evidence for cardiac ischemia.  Suspect related
   to gastric/hiatial hernia, possible gastric entrapment or volvulus.
   Surgery Consultation following.  Maintain NPO.
   HIATAL/GASTRIC HERNIA -- concern for enlargement and entrapment.
   Recommend surgical correction.  Thoracic surgery consulted and
   following, but patient specifically requests Dr. [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 518**] -->
   need to contact.
   HYPERNATREMIA -- Evolving.  Change to D51/2 NS.
   THORACIC ANEURYSM -- stable by CT scan.
   A-FiB -- rate controlled. Hold anticoagulation.  [**Month (only) 51**] require reversal
   if surgery required.
   FLUIDS -- s/p resussitation.  Remains euvolemic, maintain hydration
   with maintenence fluid.  Desire foley catheter placement to more
   accurately monitor I/O.
   NUTRITIONAL SUPPORT -- NPO pending evalutation.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2119-8-14**] 07:48 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU Attending Addendum:
   Pt. agrees to proceed with surgical repair of hiatal/gastric hernia.
   Plan to transfer to SICU service on [**Hospital Ward Name **].  Pt. stable to
   transfer at this time from [**Hospital Ward Name 57**] MICU to Clinical Center SICU.
   ------ Protected Section Addendum Entered By:[**Name (NI) 668**] [**Last Name (NamePattern1) **], MD
   on:[**2119-8-15**] 15:33 ------